US04016166
To a solution of 3.4 g of 2-(m-nitroanilino)-N-(2,2,2-trifluoroethyl) benzamide and 25 ml of dry tetrahydrofuran was added 0.5 g of approximately 55 % sodium hydride, and stirring was continued for one hour at room temperature. To this was added dropwise under cooling 5.5 g of trichloroacetyl chloride and the mixture was allowed to stand for one hour at room temperature, and then refluxed for 5 hours. After the reaction was complete, the solvent was distilled off from the resulting mixture under reduced pressure. To the residue was added water to precipitate a crude product. This product was recrystallized from ethanol to give 3.2 g of 1-(m-nitrophenyl)-3-(2,2,2-trifluoroethyl) quinazoline-2,4(1H, 3H)-dione as pale yellow prisms, melting at 182°-184° C.

reactant | 2-(m-nitroanilino)-N-(2,2,2-trifluoroethyl) benzamide | 3.4 g | [N+](=O)([O-])C=1C=C(NC2=C(C(=O)NCC(F)(F)F)C=CC=C2)C=CC1 | C15H12F3N3O3
reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | trichloroacetyl chloride | 5.5 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 1-(m-nitrophenyl)-3-(2,2,2-trifluoroethyl) quinazoline-2,4(1H, 3H)-dione | 3.2 g | [N+](=O)([O-])C=1C=C(C=CC1)N1C(N(C(C2=CC=CC=C12)=O)CC(F)(F)F)=O | C16H10F3N3O4
